US08859602B2
4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-1-methoxy-2,2,6,6-tetramethyl-piperidin-4-yl)-phenyl]-amide
The title compound was prepared as described in Example 1 step (h) using 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (as prepared in Example 1, step (g) and 1-methoxy-2,2,6,6-tetramethyl-piperidin-4-one (WO 9854174). 1H-NMR (CD3OD; 400 MHz): δ 8.21 (d, 1H, J=8.4 Hz), 8.01 (s, 1H), 7.45 (dd, 1H, J=8.4, 2.0 Hz), 7.37 (d, 1H, J=2.0 Hz), 5.75 (br s, 1H), 4.08 (s, 3H), 2.35 (m, 4H), 2.09 (m, 4H), 1.72 (s, 6H), 1.61 (m, 2H), 1.50 (s, 6H), 1.10 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C29H39N5O3, 506.3 (M+H). found 506.3.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | BrC1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C19H19BrN4O
reactant | 1-methoxy-2,2,6,6-tetramethyl-piperidin-4-one | CON1C(CC(CC1(C)C)=O)(C)C | C10H19NO2
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-1-methoxy-2,2,6,6-tetramethyl-piperidin-4-yl)-phenyl]-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CC(N(C(C1)(C)C)OC)(C)C)O)NC(=O)C=1NC=C(N1)C#N)C | C29H39N5O3
